US04853410
2-Methyl-6-nitrochroman-4-one
A mixture of 31.2 g (139 mmol) 3-(4-nitrophenoxy)butyric acid, 139 ml methanesulfonic acid and 7 g phosphorus pentoxide was heated on the steam bath for 1.75 hours. The reaction was cooled to 23° C., poured onto 500 ml ice-water mixture and extracted with 2×200 ml diethyl ether. The combined organic extracts were washed with 2×150 ml 1N sodium hydroxide, clarified by filtration, washed with 2×50 ml water and 100 ml brine, dried over magnesium sulfate and concentrated in vacuo to give the crude product as a yellow solid, 2.9 g (10%). Recrystallization from methylene chloride and isopropyl ether gave 1.35 g (4.7%) golden platelets, m.p. 144°-145° C.

reactant | 3-(4-nitrophenoxy)butyric acid | 139 mmol, 31.2 g | [N+](=O)([O-])C1=CC=C(OC(CC(=O)O)C)C=C1 | C10H11NO5
reactant | methanesulfonic acid | 139 ml | CS(=O)(=O)O | CH4O3S
reactant | phosphorus pentoxide | 7 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 2-Methyl-6-nitrochroman-4-one | CC1OC2=CC=C(C=C2C(C1)=O)[N+](=O)[O-] | C10H9NO4
